US04385052
3b. Preparation of bis-triethylsilyl-6-aminonicotinamide
2.06 grams (15 m moles) of 6-AN and 35 ml dry DMF were added to a 250 ml flask and heated under Argon until the 6-AN dissolved. After cooling, but while the mixture was still warm, 25 ml (180 m moles) of Et3N was added to form a cloudy solution which was cooled in dry ice. After 10 minutes, 15 ml of Et3SiCl was added and the mixture kept in the dry ice for an additional 30 minutes. The mixture was left overnight at room temperature.

reactant | 6-AN | 2.06 grams | C1=CC(=NC=C1C(=O)N)N | C6H7N3O
reactant | DMF | 35 ml | CN(C)C=O | C3H7NO
reactant | Et3N | 25 ml | CCN(CC)CC | C6H15N
reactant | Et3SiCl | 15 ml | [Si](CC)(CC)(CC)Cl | C6H15ClSi
solvent | dry ice | C(=O)=O | CO2
product | bis-triethylsilyl-6-aminonicotinamide | C(C)[Si](CC)(CC)C=1C(=NC(=C(C(=O)N)C1)[Si](CC)(CC)CC)N | C18H35N3OSi2
